US04271156
The procedure of Example 4 is followed but a suspension of triethylammonium pyrid-2-yldithiocarbamate (81 g) in acetonitrile (400 cc) and a solution of 1-phenylprop-2-en-1-one (40 g) in acetonitrile (100 cc) are used as the starting materials at a maximum temperature of 25° C. The reaction is allowed to proceed for 4 hours at between 20° and 25° C. Triethylammonium pyrid-2-yldithiocarbamate (21 g) is filtered off. The acetonitrile is evaporated off under reduced pressure (20 mmHg) at 45° C. The residue is dissolved in chloroform (500 cc) and the chloroform solution is washed three times with distilled water (total 300 cc), dried over sodium sulphate and evaporated to dryness. The product obtained (60 g) is dissolved in chloroform (400 cc); the solution is chromatographed on silica (0.063-0.2 mm; 600 g) distributed in a column of diameter 6 cm. Elution is carried out with chloroform (1,600 cc), this eluate being discarded, and then with chloroform (3,000 cc), this eluate being collected and evaporated to dryness under reduced pressure (20 mmHg) at 40° C. The chromatographed product (35.2 g) is purified by recrystallisation from diisopropyl ether (105 cc). 3-Oxo-3-phenylpropyl pyrid-2-yldithiocarbamate (25.5 g) (structure determined by IR spectroscopy in petroleum jelly), which melts at 120° C., is obtained.

reactant | triethylammonium pyrid-2-yldithiocarbamate | 81 g | N1=C(C=CC=C1)NC([S-])=S.C(C)[NH+](CC)CC
reactant | 1-phenylprop-2-en-1-one | 40 g | C1(=CC=CC=C1)C(C=C)=O | C9H8O
solvent | acetonitrile | 400 cc | C(C)#N | C2H3N
solvent | acetonitrile | 100 cc | C(C)#N | C2H3N
solvent | chloroform | 400 cc | C(Cl)(Cl)Cl | CHCl3
product | 3-Oxo-3-phenylpropyl pyrid-2-yldithiocarbamate | 25.5 g | N1=C(C=CC=C1)NC(SCCC(C1=CC=CC=C1)=O)=S | C15H14N2OS2
